US03937722
90 ml of a 10% by weight aqueous sodium hydroxide solution are added with cooling in a nitrogen atmosphere to a solution of 42.4 g (0.2 mol) benzoin in 400 ml DMSO, and 22 ml (0.27 mol) allyl chloride are added dropwise at 20°C within 15 minutes. The reaction solution is further stirred for 2 hours and then poured into ice/water. The crystalline crude product (50 g) is recrystallised from petroleum ether and gives 37.9 g (75% of theory) α-allyl-benzoin of melting point 89°- 93°C. A further 5.1 g of melting point 85°- 90°C are obtained from the mother liquor.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzoin | 0.2 mol, 42.4 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | allyl chloride | 0.27 mol, 22 ml | C(C=C)Cl | C3H5Cl
solvent | DMSO | 400 ml | CS(=O)C | C2H6OS
product | α-allyl-benzoin | 37.9 g, 75% | C(C=C)C(C(C1=CC=CC=C1)=O)(O)C1=CC=CC=C1 | C17H16O2
